US06384080B1
To a solution of 3-ethoxy-4-methoxybenzamide (3.30 g) in pyridine (33 mL) was added phosphorus oxychloride (1.73 mL) under ice-water cooling, and the mixture was stirred for 2 hours at ambient temperature. After evaporation of the solvent, the residue was partitioned between ethyl acetate and water under ice-water cooling. The separated organic layer was washed with 1N-hydrochloric acid, water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (5:1 to 4:1) to give 3-ethoxy-4-methoxybenzonitrile as colorless powders (2.83 g).

reactant | 3-ethoxy-4-methoxybenzamide | 3.30 g | C(C)OC=1C=C(C(=O)N)C=CC1OC | C10H13NO3
reactant | phosphorus oxychloride | 1.73 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 33 mL | N1=CC=CC=C1 | C5H5N
product | 3-ethoxy-4-methoxybenzonitrile | 2.83 g | C(C)OC=1C=C(C#N)C=CC1OC | C10H11NO2
